US09079861B2
To a solution of (S)-1-(4-bromophenyl)ethanamine (20 g, 0.1 mol) and K2CO3 (28 g, 0.2 mol) in MeCN (200 mL) was added a solution of 3-chloro-1-(4-fluorophenyl)propan-1-one (18.6 g, 0.1 mol) in MeCN (20 mL). The mixture was stirred overnight. The solid was filtered, and the filtrate was concentrated to give (S)-3-(1-(4-bromophenyl)ethylamino)-1-(4-fluorophenyl)propan-1-one (30 g, 86%), which was used for the next step without purification. 1H NMR (CDCl3): δ=1.29 (m, 3H), 2.56-2.91 (m, 2H), 3.11 (m, 2H), 3.68 (q, 1H), 7.11 (m, 2H), 7.21 (m, 2H), 7.43 (m, 2H), 7.99 (m, 2H).

reactant | (S)-1-(4-bromophenyl)ethanamine | 0.1 mol, 20 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | K2CO3 | 0.2 mol, 28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-(4-fluorophenyl)propan-1-one | 0.1 mol, 18.6 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
solvent | MeCN | 200 mL | CC#N | C2H3N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | (S)-3-(1-(4-bromophenyl)ethylamino)-1-(4-fluorophenyl)propan-1-one | 30 g, 86% | BrC1=CC=C(C=C1)[C@H](C)NCCC(=O)C1=CC=C(C=C1)F | C17H17BrFNO
